US05268511
Example 8 was repeated using the same reactor and catalyst/support charge. CF3CF2CF2OCF(CF3)CO2SiMe3 (128.6 g, 0.320 mmol) was added dropwise at ca. 20 g/hr using N2 carrier flow of 34 mL/min. There was obtained 109.1 g of liquid product consisting of PPVE (49.4 mole %), TMSF (48.4%) and C3F7OCHFCF3 (2.2%). Distillation using a 24" spinning band column gave 23.9 g of an azeotrope (74/26 TMSF/PPVE by weight), 23.5 g of intermediate fractions, and 51.6 g of >99.8% purity PPVE.

reactant | PPVE | C(=C(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F | C5F10O
reactant | TMSF | [Si](C)(C)(C)F | C3H9FSi
reactant | C3F7OCHFCF3 | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)C(F)(F)F | C5HF11O
product | TMSF PPVE | [Si](C)(C)(C)F.C(=C(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F | InChI=1S/C5F10O.C3H9FSi/c6-1(7)2(8)16-5(14,15)3(9,10)4(11,12)13;1-5(2,3)4/h;1-3H3
